US07091227B2
1-(7-Phenyl-2-benzothiazolyl)-3-ethylurea
A mixture of 1-(7-trifluoromethylsulfonyl-2-benzothiazolyl)-3-ethylurea (0.050 g, 80% pure, 0.11 mmol), lithium chloride (0.039 g, 0.92 mmol, 8.4 eq), triphenylphosphine (0.017 g, 0.066 mmol, 0.6 eq), Pd(PPh3)2Cl2 (0.010 g, 0.013 mmol, 0.12 eq), tributylphenyltin (0.036 mL, 0.33 mmol, 3.0 eq), and a crystal of 2,6-di-tert-butyl-4-methylphenol in 1 mL anhydrous DMF was purged with nitrogen gas, and was heated at about 120° C. in a sealed tube for about 36 hours. More catalyst Pd(PPh3)2Cl2 (0.010 g, 0.013 mmol, 0.12 eq) and tin reagent (0.024 mL, 0.22 mmol, 2.0 eq) were added to the mixture after the first 24 hours. The mixture was taken up in MeOH, filtered, and concentrated. Purification by HPLC gave 0.004 g (12%) of the desired compound. LC/MS 298.0 (M+1); LC retention time 3.37 min.

reactant | 1-(7-trifluoromethylsulfonyl-2-benzothiazolyl)-3-ethylurea | 0.11 mmol, 0.050 g | FC(S(=O)(=O)C1=CC=CC=2N=C(SC21)NC(=O)NCC)(F)F | C11H10F3N3O3S2
reactant | lithium chloride | 0.92 mmol, 0.039 g, 8.4 eq | [Cl-].[Li+]
reactant | triphenylphosphine | 0.066 mmol, 0.017 g, 0.6 eq | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | tributylphenyltin | 0.33 mmol, 0.036 mL, 3.0 eq | C(CCC)[Sn](C1=CC=CC=C1)(CCCC)CCCC
reactant | tin | 0.22 mmol, 0.024 mL, 2.0 eq | [Sn] | Sn
solvent | MeOH | CO | CH4O
catalyst | Pd(PPh3)2Cl2 | 0.013 mmol, 0.010 g, 0.12 eq | Cl[Pd]([P](C1=CC=CC=C1)(C2=CC=CC=C2)C3=CC=CC=C3)([P](C4=CC=CC=C4)(C5=CC=CC=C5)C6=CC=CC=C6)Cl
catalyst | Pd(PPh3)2Cl2 | 0.013 mmol, 0.010 g, 0.12 eq | Cl[Pd]([P](C1=CC=CC=C1)(C2=CC=CC=C2)C3=CC=CC=C3)([P](C4=CC=CC=C4)(C5=CC=CC=C5)C6=CC=CC=C6)Cl
product | 1-(7-Phenyl-2-benzothiazolyl)-3-ethylurea | 0.004 g, 12% | C1(=CC=CC=C1)C1=CC=CC=2N=C(SC21)NC(=O)NCC | C16H15N3OS
